US04061791
a. 2-Cyano-4,4'-dinitrobenzanilide
To a stirred solution of 16.3 gm. (0.1 mole) of 5-nitroanthranilonitrile in 100 ml. of dry pyridine is added 18.56 gm. (0.1 mole) of p-nitrobenzoyl chloride. The reaction mixture is refluxed for 3 hours. The pyridine is distilled in vacuo. The oily residue is poured into 600 ml. of water and is distilled in vacuo. The oily residue is poured into 600 ml. of water and the precipitate removed by filtration. The precipitate is boiled with 1500 ml. of ethanol. The insoluble material is removed by filtration. There is obtained 21.57 gm. of yellow solid that melts at 195°-196°.

reactant | 5-nitroanthranilonitrile | 0.1 mole | [N+](=O)([O-])C1=CC=C(C(C#N)=C1)N | C7H5N3O2
reactant | p-nitrobenzoyl chloride | 0.1 mole | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Cyano-4,4'-dinitrobenzanilide | C(#N)C1=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C=CC(=C1)[N+](=O)[O-] | C14H8N4O5
